US06908913B2
A ketone compound (1.96 g) was prepared in substantially the same manner as in step b) of Synthesis Example 1, except that 2.77 g of 7-[(5-bromopyridin-3-yl)hydroxymethyl]imidazo[5,1-b]thiazole and 2.00 g of manganese dioxide were used as the starting compounds. 7-(5-Phenylpyridin-3-yl)carbonylimidazo[5,1-b]thiazole (285 mg) was prepared in substantially the same manner as in step b) of Synthesis Example 11, except that 308 mg of the ketone compound, 240 mg of phenylboronic acid, 116 mg of tetrakis(triphenylphosphine)palladium(0), and 276 mg of potassium carbonate were used as the starting compounds.

reactant | 7-[(5-bromopyridin-3-yl)hydroxymethyl]imidazo[5,1-b]thiazole | 2.77 g | BrC=1C=C(C=NC1)C(C=1N=CN2C1SC=C2)O | C11H8BrN3OS
reactant | phenylboronic acid | 240 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 276 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | manganese dioxide | 2.00 g | [O-2].[O-2].[Mn+4]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 116 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-(5-Phenylpyridin-3-yl)carbonylimidazo[5,1-b]thiazole | 285 mg | C1(=CC=CC=C1)C=1C=C(C=NC1)C(=O)C=1N=CN2C1SC=C2 | C17H11N3OS
